US08258144B2
2-(4-(4-acetylpiperazin-1-yl)phenylamino)-4-(4-(aminomethyl)piperidin-1-yl)pyrimidine-5-carboxamide
A mixture of tert-butyl (1-(2-(1H-benzo[d][1,2,3]triazol-1-yloxy)-5-carbamoylpyrimidin-4-yl)piperidin-4-yl)methylcarbamate (138 mg, 0.294 mmol), 1-(4-(4-aminophenyl)piperazin-1-yl)ethanone (84 mg, 0.38 mmol) and p-toluenesulfonic acid (56 mg, 0.294 mmol) in dioxane (4 mL) was stirred at 100° C. for 3 h. dioxane was removed in vacuo. The residue was dissolved in CH2Cl2 (5 mL) and TFA (5 mL). The solution was stirred at room temperature for 30 min. It was then concentrated in vacuo. The residue was purified by HPLC to give the titled compound (15 mg). MS 453.6 (M+H); UV 222.8, 263.8 nm.

reactant | tert-butyl (1-(2-(1H-benzo[d][1,2,3]triazol-1-yloxy)-5-carbamoylpyrimidin-4-yl)piperidin-4-yl)methylcarbamate | 0.294 mmol, 138 mg | N1(N=NC2=C1C=CC=C2)OC2=NC=C(C(=N2)N2CCC(CC2)CNC(OC(C)(C)C)=O)C(N)=O | C22H28N8O4
reactant | 1-(4-(4-aminophenyl)piperazin-1-yl)ethanone | 0.38 mmol, 84 mg | NC1=CC=C(C=C1)N1CCN(CC1)C(C)=O | C12H17N3O
reactant | p-toluenesulfonic acid | 0.294 mmol, 56 mg | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | dioxane | 4 mL | O1CCOCC1 | C4H8O2
product | 2-(4-(4-acetylpiperazin-1-yl)phenylamino)-4-(4-(aminomethyl)piperidin-1-yl)pyrimidine-5-carboxamide | 15 mg | C(C)(=O)N1CCN(CC1)C1=CC=C(C=C1)NC1=NC=C(C(=N1)N1CCC(CC1)CN)C(=O)N | C23H32N8O2
